US08314094B2
Synthesis of N-{[6-chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-N′-(4-fluorophenyl)urea
To a stirred solution of [6-chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methylamine hydrochloride (60 mg, 0.20 mmol) in THF (1 mL), triethylamine (66 μL, 0.47 mmol) and 4-fluorophenyl isocyanate (32 mg, 0.24 mmol) were sequentially added at room temperature. The reaction solution was stirred overnight at room temperature and then concentrated. The residue was purified by thin-layer silica gel column chromatography (ethyl acetate/hexane=1/1), whereby the objective compound (24 mg, 28%) was obtained as a white solid.

reactant | [6-chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methylamine hydrochloride | 0.20 mmol, 60 mg | Cl.ClC=1C=CC2=C(C(OC(N2)=O)(C(F)(F)F)CN)C1
reactant | triethylamine | 0.47 mmol, 66 μL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorophenyl isocyanate | 0.24 mmol, 32 mg | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-{[6-chloro-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-4-yl]methyl}-N′-(4-fluorophenyl)urea | ClC=1C=CC2=C(C(OC(N2)=O)(C(F)(F)F)CNC(=O)NC2=CC=C(C=C2)F)C1 | C17H12ClF4N3O3
